US07919506B2
Preparation 21: (2-(1-methoxycycloheptyl)-5-(trifluoromethyl)benzyloxy)triisopropylsilane
To a solution of 1-(4-(trifluoromethyl)-2-((triisopropylsilyloxy)methyl)phenyl)cycloheptanol (284 mg; 0.639 mmol) in tetrahydrofuran (3.5 mL) at room temperature was added sodium hydride (40 mg; 1 mmol; 60% dispersion in mineral oil). After stirring at room temperature for 15 minutes methyl iodide (80 uL; 1.28 mmol) was added. Reaction stirred for 16 hours. More sodium hydride (20 mg; 0.5 mmol; 60% dispersion in mineral oil) was added. After 5 minutes methyl iodide (0.1 mL; 1.6 mmol) was added. The reaction was stirred for 16 hours. The reaction was quenched with water and extracted with ethyl acetate. The organic layer was washed with water (2×) and brine. The organic layer was dried over sodium sulfate and concentrated under reduced pressure. The residue was purified over a 12 g RediSep column (Teledyne Isco Inc., Lincoln Nebr.) (eluted with 5-15% ethyl acetate in heptanes) to yield 279 mg (95.2%) of the title compound as a colorless oil. MS-GC (El): Calc: 458.6 Found: 439 (M−F). 1H NMR (400 MHz, CDCl3) δ ppm 8.22 (d, J=1.24 Hz, 1H), 7.44 (dd, J=8.30, 1.24 Hz, 1H), 7.34 (d, J=8.30 Hz, 1H), 5.11 (s, 2H), 2.95 (s, 3H), 2.16 (m, 2H), 2.01 (m, 2H), 2.0 (dd, J=14.94, 14.52 Hz, 1H), 1.97 (dd, J=14.94, 14.52 Hz, 1H), 1.83-1.58 (m, 6H), 1.3-1.16 (m, 2H), 1.13 (s, 12H), 1.11 (s, 6H).

reactant | 1-(4-(trifluoromethyl)-2-((triisopropylsilyloxy)methyl)phenyl)cycloheptanol | 0.639 mmol, 284 mg | FC(C1=CC(=C(C=C1)C1(CCCCCC1)O)CO[Si](C(C)C)(C(C)C)C(C)C)(F)F | C24H39F3O2Si
reactant | sodium hydride | 1 mmol, 40 mg | [H-].[Na+]
reactant | methyl iodide | 1.28 mmol, 80 uL | CI | CH3I
reactant | sodium hydride | 0.5 mmol, 20 mg | [H-].[Na+]
reactant | methyl iodide | 1.6 mmol, 0.1 mL | CI | CH3I
solvent | tetrahydrofuran | 3.5 mL | O1CCCC1 | C4H8O
product | (2-(1-methoxycycloheptyl)-5-(trifluoromethyl)benzyloxy)triisopropylsilane | 279 mg, 95.2% | COC1(CCCCCC1)C1=C(CO[Si](C(C)C)(C(C)C)C(C)C)C=C(C=C1)C(F)(F)F | C25H41F3O2Si
